US07868014B2
(3S)-[1-(6-Bromopyridin-2-yl)-pyrrolidin-3-yl]-(2,4-dichlorobenzyl)-amine
Dissolve (3S)-1-(6-bromopyridin-2-yl)-pyrrolidin-3-ylamine hydrochloride (131 mg, 0.47 mmol) in methanol. Add triethylamine (200 μL, 1.44 mmol) and 2,4-dichlorobenzaldehyde (116 mg, 0.66 mmol). Stir at room temperature overnight. Add sodium borohydride (100 mg, 2.63 mmol) and stir 2 hours. Pour onto a column of Dowex® 50wx4-200 and wash with methanol. Elute with 10:90 triethylamine:methanol, concentrate to give a residue. Chromatograph the residue on silica gel eluting with 100:0 to 40:60 ethyl acetate:hexanes to give the title compound. Combine the title compound and ethyl acetate and add 1 N hydrochloric acid in methanol (1.5 mL). Concentrate to dryness to give the hydrochloride salt of the title compound (174 mg, 85%). 1H NMR (400 MHz, MeOH-d4) δ 7.67 (d, 1H, J=2.0 Hz), 7.64 (d, 1H, J=8.0 Hz), 7.49 (dd, 1H, J=8.0, 2.0 Hz), 7.40 (t, H, J=8.0 Hz), 6.79 (d, 1H, J=8.0 Hz), 6.49 (d, 1H, J=8.0 Hz), 4.46 (s, 2H), 4.17-4.11 (m, 1H), 3.95-3.91 (m, 1H), 3.79-3.75 (m, 1H), 3.73-3.66 (m, 1H), 3.54-3.48 (m, 1H), 2.65-2.56 (m, 1H), 2.38-2.29 (m, 1H); MS (ES): m/z=400 [M+H].

reactant | (3S)-1-(6-bromopyridin-2-yl)-pyrrolidin-3-ylamine hydrochloride | 0.47 mmol, 131 mg | Cl.BrC1=CC=CC(=N1)N1C[C@H](CC1)N
reactant | triethylamine | 1.44 mmol, 200 μL | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichlorobenzaldehyde | 0.66 mmol, 116 mg | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | sodium borohydride | 2.63 mmol, 100 mg | [BH4-].[Na+]
solvent | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S)-[1-(6-Bromopyridin-2-yl)-pyrrolidin-3-yl]-(2,4-dichlorobenzyl)-amine | BrC1=CC=CC(=N1)N1C[C@H](CC1)NCC1=C(C=C(C=C1)Cl)Cl | C16H16BrCl2N3
